US09023847B2
177. Benzyl-(2-{[3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-furan-2-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester)
The title compound was prepared in an analogous manner as 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-furan-2-carboxylic acid 3-chloro-benzylamide using (2-aminoethyl)-benzyl carbamic acid tert-butyl ester instead of 3-chlorobenzylamine and obtained in 8% yield (HPLC: 90%, RT: 6.60 min). 1H NMR (DMSO-d6) 11.99 (br s, 1H), 9.80 (br s, 1H), 8.44 (br s, 1H), 8.38 (s, 1H), 7.80 (br s, 1H), 7.71 (br s, 1H), 7.37 (dd, J=3.3, 2.6 Hz, 1H), 7.33 (d, J=7.3 Hz, 2H), 7.28-7.21 (m, 3H), 6.42 (br s, 1H), 4.44 (s, 2H), 3.40 (br s, 2H), 1.34 (s, 9H); MS (m/z) 477 [M+H]+.

reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-furan-2-carboxylic acid 3-chloro-benzylamide | ClC=1C=C(CNC(=O)C=2OC=CC2NC=2C3=C(N=CN2)NC=C3)C=CC1 | C18H14ClN5O2
reactant | (2-aminoethyl)-benzyl carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC=CC=C1)CCN)=O | C14H22N2O2
product | Benzyl-(2-{[3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-furan-2-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester | 8% yield | C(C)(C)(C)OC(N(CCNC(=O)C=1OC=CC1NC=1C2=C(N=CN1)NC=C2)CC2=CC=CC=C2)=O | C25H28N6O4
